US06953787B2
N-Trifluoroacetyl-1-(3-methoxyphenyl)-2-propylamine
A solution of 1-(3-methoxyphenyl)-2-propylamine (3.59 g, 21.7 mmol) in dichloromethane (75 mL) at 0 C., was treated with pyridine (2.1 mL, 28.2 mmol), trifluoracetic anhydride (5.9 g, 28.2 mmol), and then stirred for 3 hours while warming to 20 C. The product mixture was diluted with EtOAc (300 mL), washed sequentially with 10% aqueous HCl (100 mL), water (100 mL), brine (100 mL), dried with Na2SO4 and concentrated. Flash chromatography (20% EtOAc in hexane, silica) resulted in 4.29 g of a yellow solid. 1H NMR (400 MHz, CD3OD) d 7.17 (dd, J=8, 8 Hz, 1 H), 6.76 (m, 3 H), 4.19 (m, 1 H), 3.77 (s, 3 H), 2.78 (m, 2 H), 1.21 (d, J=7 Hz, 2 H).

reactant | 1-(3-methoxyphenyl)-2-propylamine | 21.7 mmol, 3.59 g | COC=1C=C(C=CC1)CC(C)N | C10H15NO
reactant | pyridine | 28.2 mmol, 2.1 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoracetic anhydride | 28.2 mmol, 5.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | N-Trifluoroacetyl-1-(3-methoxyphenyl)-2-propylamine | 4.29 g | FC(C(=O)NC(CC1=CC(=CC=C1)OC)C)(F)F | C12H14F3NO2
